US08183380B2
rac-N′-[2-(2,3-dihydro-1-benzofuran-3-ylamino)quinolin-6-yl]-N,N-dimethylsulfamide
The title compound was prepared in accordance with the general method described in example 66 from dimethylsulfamoylchloride and rac-N2-(2,3-dihydro-benzofuran-3-yl)-quinoline-2,6-diamine; MS: m/e=385.6 (M+H+).

reactant | dimethylsulfamoylchloride | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | rac-N2-(2,3-dihydro-benzofuran-3-yl)-quinoline-2,6-diamine | O1CC(C2=C1C=CC=C2)NC2=NC1=CC=C(C=C1C=C2)N | C17H15N3O
product | rac-N′-[2-(2,3-dihydro-1-benzofuran-3-ylamino)quinolin-6-yl]-N,N-dimethylsulfamide | O1CC(C2=C1C=CC=C2)NC2=NC1=CC=C(C=C1C=C2)NS(=O)(=O)N(C)C | C19H20N4O3S
